2192-01-26 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Repeat TTE showed slightly enlarged pocket of fluid (1/3 cm) anterior
   to RV without tamponade physiology.  Repeated flush showed only straw
   colored inflammatory fluid.   Total drain output of 350cc, mostly by
   passive drainage. Hct has remained stable.  Patient was extubated
   without difficulty.  Femoral arterial line was removed.  Pressures have
   remained stable.  Patient went back into AF, and was restarted on 30mg
   (compared to 90mg home dose) dilt, as well as his home propafonone.
   Both were tolerated well, and patient to have dilt dose increased to
   60mg in AM with HRs 90-110.  Continued to have pericarditic pain, and
   was started on colchicine for pain relief.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2192-1-25**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-1-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 78 (72 - 119) bpm
   BP: 107/52(66) {86/47(57) - 123/91(96)} mmHg
   RR: 12 (6 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.3 kg (admission): 81 kg
             Total In:
                                                                  4,399 mL
                                                                    265 mL
   PO:
                                                                    450 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  3,949 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,248 mL
                                                                  1,780 mL
   Urine:
                                                                  1,900 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
                                                                    348 mL
                                                                    100 mL
   Balance:
                                                                  2,151 mL
                                                                 -1,515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (533 - 533) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 8.1 L/min
   Physical Examination
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Distant HS, +friction rub.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. A-line L femoral
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   183 K/uL
   10.4 g/dL
   111 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   15 mg/dL
   107 mEq/L
   136 mEq/L
   29.5 %
   12.0 K/uL
        [image002.jpg]
                            [**2192-1-24**]  01:24 PM
                            [**2192-1-24**]  01:33 PM
                            [**2192-1-24**]  04:20 PM
                            [**2192-1-24**]  04:25 PM
                            [**2192-1-24**]  09:45 PM
                            [**2192-1-25**]  04:12 AM
                            [**2192-1-25**]  04:31 AM
                            [**2192-1-25**]  02:04 PM
                            [**2192-1-25**]  09:58 PM
                            [**2192-1-26**]  03:59 AM
   WBC
   11.0
   8.0
   12.0
   Hct
   32.0
   30.6
   28.0
   28.2
   30.9
   30.3
   29.5
   Plt
   261
   200
   183
   Cr
   1.3
   1.1
   1.0
   TropT
   0.06
   TCO2
   28
   26
   22
   Glucose
   133
   185
   111
   Other labs: PT / PTT / INR:19.1/28.7/1.8, CK / CKMB /
   Troponin-T:63//0.06, Lactic Acid:0.7 mmol/L, Ca++:7.7 mg/dL, Mg++:1.8
   mg/dL, PO4:1.6 mg/dL
   Imaging: TTE:  Overall left ventricular systolic function is normal
   (LVEF>55%). There is a very small pericardial effusion (1.3cm). The
   effusion is partially echo dense. There are no echocardiographic signs
   of tamponade.
   Assessment and Plan
   ASSESSMENT AND PLAN
   .
   # CARDIAC TAMPONADE: Pulmonary vein isolation complicated by presumed
   [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 3429**]. s/p pericardiocentesis in the EP lab with approx 1L of
   oxygenated blood expressed. Repeat ECHOs show stabilization of effusion
   (small). Pt with mild sx of pericarditis. BP stable without need for
   pressors or fluid boluses post-extubation, doing well.
   - Formal ECHO in am [**12-26**] decrease frequency of CRIT checks
   - Cont. to follow pericardial drain output
   - Cont. colchicines, decrease to 0.6 [**Hospital1 **] to minimize side effects
   - Hold Coumadin/heparin for now to prevent oozing at perforation site
   .
   # CORONARIES:  No known hx of CAD - last stress test [**2190**] (OSH) per
   report showed no evidence of ischemia. Risk factors include
   hypertension and hyperlipidemia
   .
   # PUMP:  ECHO [**6-9**] showed nl PUMP function with EF 60%, Cardiac MR
   [**1-9**] showed LVEF 65% and nl wall motion. Mild MR. ECHO in EP lab
   showed evidence of tamponade and RV collapse (resolved on repeat).
   Subsequent ECHOs show resolution, with small remaining pocket of fluid.
   .
   # RHYTHM:  Known paroxysmal Afib, s/p ablation procedure which was
   terminated early. Sinus rhythm post procedure, but back in Afib [**1-25**].
   This morning with likely conversion to atrial flutter with rates to
   130s
   - Start Diltiazem drip with bolus
   - Continue propafenone
   - Possible carvioversion tomorrow vs. Aflutter ablation
   - Monitor on telemetry
   .
   #  HYPERTENSION: Holding all home antihypertensives except for
   diltiazem
   .
   #  HYPERLIPIDEMIA: Cont. Lipitor
   ICU Care
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-1-24**] 01:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin, subtherapeutic INR 1.8 (s/p Coumadin therapy)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-01-27 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had ECHO which showed the effusion was slightly smaller (but per
   report may be related to technical/imaging factors rather than a true
   change).  Pt went back into NSR at rate of 80s; dilt gtt never started
   given HR; titrated up PO Dilt to 90 QID.  CXR showed bibasilar
   atelectasis, L. sided pleural effusion.  Pt c/o cough /congestion and
   had pain w/cough at insertion site; tx with guafenasin w/codeine and
   tylenol.  No drain output overnight and 30cc/24 h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-1-27**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 82 (62 - 113) bpm
   BP: 111/67(77) {80/48(43) - 128/75(89)} mmHg
   RR: 22 (0 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.3 kg (admission): 81 kg
                  Total In:
                                                                  1,105 mL
                  PO:
                                                                    930 mL
                  TF:
   IVF:
                                                                    175 mL
   Blood products:
   Total out:
                                                                  5,310 mL
                                                                    270 mL
   Urine:
                                                                  5,130 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
                                                                    180 mL
   Balance:
                                                                 -4,205 mL
                                                                   -270 mL
   Respiratory support
   SpO2: 90%
   ABG: ///26/
   Physical Examination
   GENERAL: Intubated, sedated.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Distant HS, +friction rub.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits. A-line L femoral
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   235 K/uL
   10.6 g/dL
   111 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   140 mEq/L
   29.8 %
   9.8 K/uL
        [image002.jpg]
                            [**2192-1-24**]  01:33 PM
                            [**2192-1-24**]  04:20 PM
                            [**2192-1-24**]  04:25 PM
                            [**2192-1-24**]  09:45 PM
                            [**2192-1-25**]  04:12 AM
                            [**2192-1-25**]  04:31 AM
                            [**2192-1-25**]  02:04 PM
                            [**2192-1-25**]  09:58 PM
                            [**2192-1-26**]  03:59 AM
                            [**2192-1-27**]  04:37 AM
   WBC
   8.0
   12.0
   9.8
   Hct
   30.6
   28.0
   28.2
   30.9
   30.3
   29.5
   29.8
   Plt
   200
   183
   235
   Cr
   1.1
   1.0
   1.0
   TCO2
   28
   26
   22
   Glucose
   185
   111
   111
   Other labs: PT / PTT / INR:15.4/27.8/1.4, CK / CKMB /
   Troponin-T:63//0.06, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   # CARDIAC TAMPONADE: Pulmonary vein isolation complicated by presumed
   [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 3429**]. s/p pericardiocentesis in the EP lab with approx 1L of
   oxygenated blood expressed. Repeat ECHOs show stabilization of effusion
   (small). Pt with mild sx of pericarditis. BP stable without need for
   pressors or fluid boluses post-extubation, doing well.
   - Formal ECHO in am [**12-26**] decrease frequency of CRIT checks
   - Cont. to follow pericardial drain output
   - Cont. colchicines, decrease to 0.6 [**Hospital1 **] to minimize side effects
   - Hold Coumadin/heparin for now to prevent oozing at perforation site
   .
   # CORONARIES:  No known hx of CAD - last stress test [**2190**] (OSH) per
   report showed no evidence of ischemia. Risk factors include
   hypertension and hyperlipidemia
   .
   # PUMP:  ECHO [**6-9**] showed nl PUMP function with EF 60%, Cardiac MR
   [**1-9**] showed LVEF 65% and nl wall motion. Mild MR. ECHO in EP lab
   showed evidence of tamponade and RV collapse (resolved on repeat).
   Subsequent ECHOs show resolution, with small remaining pocket of fluid.
   .
   # RHYTHM:  Known paroxysmal Afib, s/p ablation procedure which was
   terminated early. Sinus rhythm post procedure, but back in Afib [**1-25**].
   This morning with likely conversion to atrial flutter with rates to
   130s
   - Start Diltiazem drip with bolus
   - Continue propafenone
   - Possible carvioversion tomorrow vs. Aflutter ablation
   - Monitor on telemetry
   .
   #  HYPERTENSION: Holding all home antihypertensives except for
   diltiazem
   .
   #  HYPERLIPIDEMIA: Cont. Lipitor
   ICU Care
   ICU Care
   Nutrition:
   Comments: Regular Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-1-24**] 01:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin, subtherapeutic INR 1.8 (s/p Coumadin therapy)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-1-24**] 01:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: